US09302991B2
<Step-3>: N2,6-dimethyl-N4-(1-(3-(trifluoromethoxy)phenyl)ethyl)pyridine-2,4-dicarboxamide (Example-511, single enantiomer)
The title compound is prepared from 6-methyl-4-((1-(3-(trifluoromethoxy)phenyl)ethyl)carbamoyl)picolinic acid (20 mg, 0.05 mmol, Step-2, single enantiomer) and methanamine (11 mg, 0.16 mmol) by the similar manner in Example-2.

reactant | 6-methyl-4-((1-(3-(trifluoromethoxy)phenyl)ethyl)carbamoyl)picolinic acid | 0.05 mmol, 20 mg | CC1=CC(=CC(=N1)C(=O)O)C(NC(C)C1=CC(=CC=C1)OC(F)(F)F)=O | C17H15F3N2O4
reactant | methanamine | 0.16 mmol, 11 mg | CN | CH5N
product | N2,6-dimethyl-N4-(1-(3-(trifluoromethoxy)phenyl)ethyl)pyridine-2,4-dicarboxamide | CNC(=O)C1=NC(=CC(=C1)C(=O)NC(C)C1=CC(=CC=C1)OC(F)(F)F)C | C18H18F3N3O3
